US07390923B2
b) 3-(4-Acetylamino-3-fluorophenoxy)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide
The compound was synthesised according to the procedure described in Example 1c. N-(2-Fluoro-4-hydroxyphenyl)acetamide (0.5 g, 3.0 mmol) and 2-methyloxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide (0.6 g, 2.5 mmol) was used as starting materials. The product was crystallised from the mixture of ethyl acetate and diethyl ether (1:1). The yield was 0.39 g. 1H NMR (DMSO-d6): 1.42 (3H, s), 2.02 (3H, s), 2.53 (3H, s), 3.97 (1H, d, J=9.7 Hz), 4.21 (1H, d, J=9.7 Hz), 6.23 (1H, bs), 6.72 (1H, m), 6.90 (1H, m), 7.56 (1H, m), 7.88 (1H, dd, J=9.0 Hz and 2.2 Hz), 7.93 (1H, d, J=2.2 Hz), 8.03 (1H, d, J=9.0 Hz), 9.51 (1H, s), 10.15 (1H, bs).

reactant | N-(2-Fluoro-4-hydroxyphenyl)acetamide | 3.0 mmol, 0.5 g | FC1=C(C=CC(=C1)O)NC(C)=O | C8H8FNO2
reactant | 2-methyloxirane-2-carboxylic acid (3-methyl-4-nitrophenyl)amide | 2.5 mmol, 0.6 g | CC=1C=C(C=CC1[N+](=O)[O-])NC(=O)C1(OC1)C | C11H12N2O4
product | 3-(4-Acetylamino-3-fluorophenoxy)-2-hydroxy-2-methyl-N-(3-methyl-4-nitrophenyl)propionamide | C(C)(=O)NC1=C(C=C(OCC(C(=O)NC2=CC(=C(C=C2)[N+](=O)[O-])C)(C)O)C=C1)F | C19H20FN3O6
